US06936607B2
2-(4-BENZYL-1-PIPERAZINYL)-N4-[3-(ETHYLAMINO)-4-METHYLPHENYL]-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE:
A mixture of N-(5-{[2-(4-benzyl-1-piperazinyl)-6-(dimethylamino)-4-pyrimidinyl]amino}-2-methylphenyl)acetamide (40 mg, 0.08 mmol) and lithium aluminum hydride (76 mg, 2 mmol) in tetrahydrofuran (3 mL) was heated at 90° C. for 12 hours. The crude product was filtered through Celite® and purified by preparative thin-layer chromatography [eluent: EtOAc/hexane (1:1)], giving the desired product (27 mg, 76%).

reactant | N-(5-{[2-(4-benzyl-1-piperazinyl)-6-(dimethylamino)-4-pyrimidinyl]amino}-2-methylphenyl)acetamide | 0.08 mmol, 40 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC=1C=CC(=C(C1)NC(C)=O)C)N(C)C | C26H33N7O
reactant | lithium aluminum hydride | 2 mmol, 76 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-(4-BENZYL-1-PIPERAZINYL)-N4-[3-(ETHYLAMINO)-4-METHYLPHENYL]-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE | 27 mg, 76% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC1=CC(=C(C=C1)C)NCC)N(C)C | C26H35N7
